US07001897B2
Subsequently, to a solution of [(1S)-1-(hydroxymethyl)propyl]carbamic acid benzyl ester (4.27 g, 19.1 mmol) in dimethylformamide (128 ml) were added t-butyldiphenylsilyl chloride (5.97 ml, 22.9 mmol) and imidazole (1.56 g, 22.9 mmol) in an ice bath. The mixture was stirred at room temperature overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (6:1→4:1) as the eluant to afford [(1S)-1-(t-butyldiphenylsilyloxymethyl)propyl]carbamic acid benzyl ester (9.48 g, yield 100%) as a white solid.

reactant | [(1S)-1-(hydroxymethyl)propyl]carbamic acid benzyl ester | 19.1 mmol, 4.27 g | C(C1=CC=CC=C1)OC(N[C@@H](CC)CO)=O | C12H17NO3
reactant | t-butyldiphenylsilyl chloride | 22.9 mmol, 5.97 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 22.9 mmol, 1.56 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 128 ml | CN(C=O)C | C3H7NO
product | [(1S)-1-(t-butyldiphenylsilyloxymethyl)propyl]carbamic acid benzyl ester | 9.48 g, yield 100% | C(C1=CC=CC=C1)OC(N[C@@H](CC)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C28H35NO3Si
